US07977331B1
To a solution of methyl 12-cyclohexyl-4-[2-oxo-2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (254 mg, 0.49 mmol) in tetrahydrofuran (1 ml) was added a solution (1 ml) of 1M BH3 THF complex in tetrahydrofuran, and the mixture was stirred at room temperature for 3 hr. 2N Hydrochloric acid (2 ml) was added to the reaction mixture, and the mixture was stirred at 70° C. for 4 hr. The reaction mixture was allowed to cool to room temperature, and the reaction mixture was neutralized by adding 2N aqueous sodium hydroxide solution and saturated aqueous sodium hydrogen carbonate solution. Water was added, and the precipitated solid was collected by filtration and washed with water. The obtained solid was dried in vacuo to give methyl 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (240 mg, yield 97%).

reactant | methyl 12-cyclohexyl-4-[2-oxo-2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.49 mmol, 254 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4OCC(N4CCCCC4)=O)C=C(C=C2)C(=O)OC | C31H36N2O5
reactant | Hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 240 mg, yield 97% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4OCCN4CCCCC4)C=C(C=C2)C(=O)OC | C31H38N2O4
